US07220858B2
C. Novel Preparation of Hydralazine Hydrochloride.
Hydralazine free base (1 part by weight) was heated in 6 to 7 parts by volume of 15% hydrochloric acid to a temperature of 70–80° C. The solution was filtered hot to remove traces of insoluble materials that were undesired by-products of the preceding step. Ethanol (6 to 7 parts by volume) was added to the filtrate. As the resulting solution cooled to ambient temperature and then further to 3–8° C., an off-white to pale yellow precipitate of the desired product, hydralazine hydrochloride, was obtained. Typical yields were 80–90%.

reactant | Hydralazine | C=1C=CC=2C(C1)=CN=NC2NN | C8H8N4
reactant | hydrochloric acid | Cl | ClH
product | hydralazine hydrochloride | C=1C=CC=2C(C1)=CN=NC2NN.Cl | InChI=1S/C8H8N4.ClH/c9-11-8-7-4-2-1-3-6(7)5-10-12-8;/h1-5H,9H2,(H,11,12);1H
